US08877772B2
Preparation of N-methyl-4-[5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzamide
4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-N-methyl-benzamide (Intermediate CE, 100 mg, 0.206 mmol), 3,4,5-trimethoxyphenylboronic acid (53 mg, 0.248 mmol) and dichlorobis(triphenylphosphine)palladium (II) (9 mg, 0.012 mmol) were combined in CH3CN (2 ml) and 1 M Na2CO3 (2 ml) and reacted in a microwave reactor for 20 min at 150° C. Water was added, the aqueous phase was extracted with DCM and the organic phase was dried and evaporated. Purification by silica gel chromatography using 0-8% MeOH:DCM yielded 40 mg (47%) of the title compound. 1H NMR (CDCl3, 300 MHz): δ 12.09 (s, 1H), 8.59 (d, J=1.2 Hz, 1H), 8.48 (d, J=1.2 Hz, 1H), 8.43 (q, J=2.7 Hz, 1H), 8.04 (s, 1H), 7.94 (d, J=4.0, 2H), 7.91 (d, J=4.0 Hz, 2H), 7.00 (s, 2H), 3.89 (s, 6H), 3.70 (s, 3H), 2.80, (d, J=4.5 Hz, 3H).

reactant | 4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-N-methyl-benzamide | 0.206 mmol, 100 mg | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(C(=O)NC)C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C22H18BrN3O3S
reactant | 3,4,5-trimethoxyphenylboronic acid | 0.248 mmol, 53 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | Na2CO3 | 1 M, 2 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Water | O | H2O
solvent | CH3CN | 2 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.012 mmol, 9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-methyl-4-[5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzamide | 40 mg, 47% | CNC(C1=CC=C(C=C1)C1=CNC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O | C24H23N3O4
